US07214673B2
(S)-1,4-Dibenzyl-2-(2-pyridin-3-yl-ethyl)-piperazine
Prepared by the method in Example 128, using 9-borabicyclo[3.3.1]nonane (68.4 mL, 34.2 mmol, 0.5 M in THF), (S)-1,4-dibenzyl-2-vinyl-piperazine (2.5 g, 8.55 mmol), triphenylphosphine (718 mg, 2.74 mmol), tetrakis(triphenylphosphine) palladium(0)(395 mg, 0.34 mmol), 3-iodopyridine (2.63 g, 12.8 mmol) and 3M NaOH (7.0 mL, 21.0 mmol) to give title compound (1.28 g, 40%): mp 94–95.5° C.; mass spectrum (ion spray): m/z=372 (M+1). Analysis calculated for C25H29N3: C, 80.82; H, 7.87; N, 11.31. Found: C, 80.54; H, 7.76; N, 11.32.

reactant | 9-borabicyclo[3.3.1]nonane | 34.2 mmol, 0.5 M, 68.4 mL | C12CCCC(CCC1)B2 | C8H15B
reactant | (S)-1,4-dibenzyl-2-vinyl-piperazine | 8.55 mmol, 2.5 g | C(C1=CC=CC=C1)N1[C@H](CN(CC1)CC1=CC=CC=C1)C=C | C20H24N2
reactant | triphenylphosphine | 2.74 mmol, 718 mg | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
reactant | 3-iodopyridine | 12.8 mmol, 2.63 g | IC=1C=NC=CC1 | C5H4IN
reactant | NaOH | 21.0 mmol, 3M, 7.0 mL | [OH-].[Na+]
catalyst | tetrakis(triphenylphosphine) palladium(0) | 0.34 mmol, 395 mg | [Pd].C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1.C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1.C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1.C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1
product | (S)-1,4-Dibenzyl-2-(2-pyridin-3-yl-ethyl)-piperazine | 1.28 g, 40% | C(C1=CC=CC=C1)N1[C@H](CN(CC1)CC1=CC=CC=C1)CCC=1C=NC=CC1 | C25H29N3
